US06107297
iv) 5-{5H-Dibenzo[a,d]cyclohepten-5-yl}-2,4(1H,3H)-pyrimidinedione
To a stirred solution of the 5-(2,4-bis(1,1-dimethylethoxy)pyrimidin-5-yl)-5H-dibenzo[a,d]cyclohepten-5-ol and triethylsilane (64 ml) in dry dichloromethane (400 ml) at 0° C. was added trifluoroacetic acid (150 ml) dropwise over ten minutes. The cooling bath was removed and the solution was stirred at room temperature overnight. Toluene (300 ml) was added and solution was evaporated under vacuum. The residue was azeotroped with toluene (3 times). The oil was treated with diethyl ether and the precipitated product collected as a white powder (44 g).

reactant | 5-(2,4-bis(1,1-dimethylethoxy)pyrimidin-5-yl)-5H-dibenzo[a,d]cyclohepten-5-ol | CC(C)(OC1=NC=C(C(=N1)OC(C)(C)C)C1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O)C | C27H30N2O3
reactant | triethylsilane | 64 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5-{5H-Dibenzo[a,d]cyclohepten-5-yl}-2,4(1H,3H)-pyrimidinedione | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C=3C(NC(NC3)=O)=O | C19H14N2O2
